US06610685B2
120 ml of a ca 1.6 M solution of n-butyllithium in n-hexane was added with stirring during 15 min. to a solution of 17.5 g (S)-N-BOC-alaninol in 120 ml tetrahydrofuran at −78° C. The mixture was then stirred at −15° C. for 45 min. The mixture was then cooled to −78° C. and a solution of 7.3 mL thionyl chloride in 50 mL THF, cooled to −78° C. in a jacketed dropping funnel, was added at once with vigorous stirring. The temperature rose to ca −38° C. The mixture was then stirred at −15° C. for 1 h. The reaction mixture was distributed between 10% citric acid and ethyl acetate. The phases separated, the organic phase was washed with 10% sodium bicarbonate and brine, dried over magnesium sulfate and evaporated. The residue was taken up in 150 mL ethyl acetate and a solution of 35 g sodium metaperiodate was added at 0° C. 0.20 g ruthenium dioxide hydrate was added to the well stirred mixture. The mixture was stirred at room temperature for 1.5 h. The phases were separated. The organic phase was purified by chromatography on silica gel with ethyl acetate: hexane=2: 1 to yield 13.79 g (S)-4-Methyl-2,2-dioxo-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester as white crystals melting at 121.1-121.8° C. after recrystallisation from t-butylmethylether.

reactant | n-butyllithium | C(CCC)[Li]
reactant | (S)-N-BOC-alaninol | 17.5 g | C(=O)(OC(C)(C)C)N[C@@H](C)CO | C8H17NO3
reactant | thionyl chloride | 7.3 mL | S(=O)(Cl)Cl | Cl2OS
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-4-Methyl-2,2-dioxo-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester | 13.79 g | C(C)(C)(C)OC(=O)N1S(OC[C@@H]1C)(=O)=O | C8H15NO5S
